US04922015
Methyl 4-(4-methoxybenzoyl)-phenoxyacetate
29.1 g of 4-hydroxy-4'-methoxybenzophenone (R. Martin et al., Monatsh, Chemie 110, 1057-1066 (1979)) are dissolved in 400 ml of dry acetone. Then, while stirring, 19.3 g of finely powdered K2CO3 and 16 ml of methyl bromoacetate are added, and the mixture is stirred at room temperature. The reaction is complete after 2 days. The precipitated mixture of salt and substance is filtered off with suction, and the filtrate is concentrated. Both residues are suspended in water, and the pH is adjusted to 3 with 2N HCl. The solid is filtered off with suction, washed with water and dried under high vacuum in a desiccator.

reactant | 4-hydroxy-4'-methoxybenzophenone | 29.1 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C14H12O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 16 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | Methyl 4-(4-methoxybenzoyl)-phenoxyacetate | COC1=CC=C(C(=O)C2=CC=C(OCC(=O)OC)C=C2)C=C1 | C17H16O5
